US06962911B2
Preparation of 1-tert-butoxycarbonyl-4-(2-fluoroethyl)homopiperazine (a compound of the formula (27) wherein n=2, m=1, Z=F)
A mixture of 1-tert-butoxycarbonylhomopiperazine (800 mg, 3.99 mmol), 1-bromo-2-fluoroethane (0.46 mL, 11.98 mmol) and potassium carbonate (1.10 g, 7.98 mmol) in anhydrous tetrahydrofuran (20 mL) was stirred overnight at 70° C. and was cooled to room temperature. The reaction mixture was filtered through a Celite pad, and the filtrate was evaporated to dryness under vacuum to afford yellowish oil. The crude product was purified by MPLC on silica gel (3% MeOH in CHCl3) to afford the titled compound (653 mg, 67%) as a pale yellow oil.

reactant | 1-tert-butoxycarbonylhomopiperazine | 3.99 mmol, 800 mg | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | 1-bromo-2-fluoroethane | 11.98 mmol, 0.46 mL | BrCCF | C2H4BrF
reactant | potassium carbonate | 7.98 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(2-fluoroethyl)homopiperazine | 653 mg, 67% | C(C)(C)(C)OC(=O)N1CCN(CCC1)CCF | C12H23FN2O2
